US04499102
(4R)-3-(7-Carboxyheptanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid (compound 20)
(4R)-2-(2-Hydroxyphenyl)-4-thiazolidinecarboxylic acid (6.8 g), in N sodium hydroxide (30 ml) and octanedioyl dichloride (6.3 g), were added dropwise to 1M potassium carbonate (60 ml) with stirring under ice-cooling. After the addition, the reaction mixture was stirred for 1 hour at the same temperature and for additional 1 hour at room temperature. The solution was acidified with dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residual oil*2 was purified by silica gel column chromatography to give 7.0 g (61%) of the titled compound: mp 155°-157° C. (dec.) (ethyl acetate); [α]D27 +134.1° (c=0.5, methanol). IR (nujol, cm-1): 3220 (OH), 1710 (COOH), 1620 (CON), 1600 (aromatic), 1415, 1235, 1172, 950, 760. NMR (DMSO-d6,δ): 0.53-1.73 (8H, m, -- CH2 --CH2)4CH2 --), 1.77-2.57 (4H, m, --CH2 --CH2)4CH2 --), 3.03 (1H, ABq (A part), d, J=11.5, 8.5 Hz, C5*1 --HA), 3.37 (1H, ABq (B part), d, J=11.5, 6.5 Hz, C5 --HB), 4.60 (1H, dd, J=8.5, 6.5 Hz, C4 --H), 6.28 (1H, s, C2 --H), 6.45-8.07 (4H, m, arom. H), 9.77 (1H, s, C2 --H), 6.45-8.07 (4H, m, arom. H), 9.77 (1H, s, --COOH). TLC: Rf value*3 0.52. pyrrolidine ring. The same shall be applied hereinafter.

reactant | (4R)-2-(2-Hydroxyphenyl)-4-thiazolidinecarboxylic acid | 6.8 g | OC1=C(C=CC=C1)C1SC[C@H](N1)C(=O)O | C10H11NO3S
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | octanedioyl dichloride | 6.3 g | C(CCCCCCC(=O)Cl)(=O)Cl | C8H12Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | potassium carbonate | 1M, 60 ml | C([O-])([O-])=O.[K+].[K+]
product | (4R)-3-(7-Carboxyheptanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid | 7.0 g, 61% | C(=O)(O)CCCCCCC(=O)N1C(SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C18H23NO6S
